US07332485B2
1-[(Benzyloxy-Formyl-Amino)-Methyl]-4,4-Dimethyl-Cyclohexanecarboxylic Acid
To a cold solution of formic acid (12.8 mL, 0.33 mol) in dichloromethane (50 mL) at 0° C. under a nitrogen atmosphere was added acetic anhydride (4.8 mL, 51 mmol). After 1 h, a solution of 1-(benzyloxyamino-methyl)-4,4-dimethyl-cyclohexanecarboxylic acid from Preparation 30 (5.11 mmol theoretical) in dichloromethane (50 mL) was added. The reaction was stirred at room temperature for 18 h and was concentrated in vacuo. Water (100 mL) was added and the mixture was extracted with dichloromethane (50 mL×5). The combined organic extracts were dried (MgSO4) and were evaporated in vacuo to yield the title compound (1.55 g, 95%). MH+320.

reactant | formic acid | 0.33 mol, 12.8 mL | C(=O)O | CH2O2
reactant | acetic anhydride | 51 mmol, 4.8 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(benzyloxyamino-methyl)-4,4-dimethyl-cyclohexanecarboxylic acid | C(C1=CC=CC=C1)ONCC1(CCC(CC1)(C)C)C(=O)O | C17H25NO3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-[(Benzyloxy-Formyl-Amino)-Methyl]-4,4-Dimethyl-Cyclohexanecarboxylic Acid | 1.55 g, 95% | C(C1=CC=CC=C1)ON(C=O)CC1(CCC(CC1)(C)C)C(=O)O | C18H25NO4
